************************************** 
*      Model Generated by MODPEX     * 
*Copyright(c) Symmetry Design Systems* 
*         All Rights Reserved        * 
*    UNPUBLISHED LICENSED SOFTWARE   * 
*   Contains Proprietary Information * 
*      Which is The Property of      * 
*     SYMMETRY OR ITS LICENSORS      * 
*Commercial Use or Resale Restricted * 
*   by Symmetry License Agreement    * 
************************************** 
* Model generated on Feb 12, 97 
* MODEL FORMAT: SPICE3 
**********
.SUBCKT MC33341 1 2 3 4 5 6 7 8
DCLP1 4 8 DSTD
DCLP2 6 7 DSTD
DCLP3 4 5 DSTD
DCLP4 4 1 DSTD
DCLP5 2 7 DSTD
DCLP6 3 7 DSTD
**** INTERNAL REFERENCES ****
EREF1 10 4 VALUE = { IF( V(7)>200M, 200M, V(7) ) }
EREF2 11 4 VALUE = { IF( V(7)>1.2, 1.2, V(7) ) }
**** DISABLE LOGIC FUNCTION ****
XCMP1 11 1 14 COMP2
XCMP2 6 1 15 COMP2
ENOR 16 4 VALUE = { IF( ((V(14)>800M) | (V(15)>800M)), 0, 5 ) }
RDEL 16 17 100
CDEL 17 4 10P
**** INVERTING AMP/ DIFF. AMP ****
R1 6 20 10K
R2 20 21 10K
R3 1 22 10K
R4 22 4 10K
XAMP1 22 20 21 4 ERRSIMP
R5 1 23 10K
R6 23 24 10K
XAMP2 4 23 25 4 ERRSIMP
D1 25 24 DSTD
**** CURRENT SENSE SELECTION ****
EISENS 52 4 VALUE = { IF( V(17)>3, V(21,4), V(24,4) ) }
**** LIMITED TRANSCONDUCTANCE CONVERSION ****
XCON 11 10 6 5 2 52 4 3 7 8 OTA
**** INTERNAL MODELS ****
.MODEL DSTD D(RS=.8 CJO=4PF IS=7E-09 N=2 VJ=.6V    
+ TT=6E-09 M=.45 BV=100V)
.ENDS MC33341
********************
.SUBCKT COMP2 1 2 3
*             + - S
E1 4 0 VALUE = { IF( (V(1) > V(2)), 5V, 0 ) }
RD 4 3 100
CD 3 0 10P
.ENDS COMP2
**** SIMPLIFIED ERROR AMP. ****
.SUBCKT ERRSIMP 20 8 23  21
*   	        +  - OUT GND
RIN 20 8 8MEG
E1 22 21 5 21 1
RO 22 23 100
VOFF 5 11 0
D15 21 11 DCLAMP
G1 21 11 20 8 100U
RP1 11 21 130MEG
CP1 11 21 10P
.MODEL DCLAMP D (RS=10 BV=5 IBV=0.01)
.ENDS ERRSIMP
**** TRANSCONDUCTANCE AMPLIFIER ****
.SUBCKT OTA VREF IREF PIN6 PIN5 PIN2 ISENSE GND COMP VCC OUT
*
R5 Vcc 13 43
I4 4 gnd DC=20uA
Q1 Comp 12 33 Q2N3904
Q2 gnd Comp 7 Q2N3906 
Q3 Comp 14 5 Q2N3906 
Q4 Comp 7 Out Q2N3906 
Q5 5 5 26 Q2N3906 
Q6 14 5 24 Q2N3906 
Q7 14 4 29 Q2N3904
Q9 12 22 20 Q2N3906 
Q12 gnd pin2 27 Q2N3906
R11 24 Vcc 10k
R12 26 Vcc 10k
Q10 12 12 34 Q2N3904 
Q11 4 4 28 Q2N3904
Q16 12 Vref 20 Q2N3906 
Q19 4 pin5 20 Q2N3906 
Q20 gnd Iref 27 Q2N3906 
Q21 12 27 21 Q2N3906 
R13 28 gnd 10k
R14 29 gnd 10k
Q8 Out 7 13 Q2N3906 
I3 Vcc 21 DC=20uA
I8 Vcc 23 DC=2uA
I5 Vcc 27 DC=2uA
R15 33 gnd 10k
R16 34 gnd 10k
Q22 4 23 21 Q2N3906 
Q23 gnd Isense 23 Q2N3906 
I6 Vcc 20 DC=20uA
R4 22 pin6 6.25k
.model Q2N3904	NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+		Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+		Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
.model Q2N3906	PNP(Is=1.41f Xti=3 Eg=1.11 Vaf=18.7 Bf=180.7 Ne=1.5 Ise=0
+		Ikf=80m Xtb=1.5 Br=4.977 Nc=2 Isc=0 Ikr=0 Rc=2.5 Cjc=9.728p
+		Mjc=.5776 Vjc=.75 Fc=.5 Cje=8.063p Mje=.3677 Vje=.75 Tr=33.42n
+		Tf=179.3p Itf=.4 Vtf=4 Xtf=6 Rb=10)
.ENDS OTA
****
